US07034039B2
To a solution of p-toluenesulfonylmetyl isocyanide (0.94 g, 4.8 mmol) in 1,2-dimethoxyethane (20 ml) were added potassium t-butoxide (0.90 g, 8 mmol) and tert-butyl(4-butoxy-6-formyl-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (1.78 g, 4 mmol) at −70° C., and the mixture was stirred at −70° C. for 1 h. To the mixture was added methanol (30 ml), and the mixture was refluxed for 30 min. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl[4-butoxy-6-(cyanomethyl)-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.66 g, 36.3%) as an amorphous solid.

reactant | p-toluenesulfonylmetyl isocyanide | 4.8 mmol, 0.94 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium t-butoxide | 8 mmol, 0.90 g | CC(C)([O-])C.[K+]
reactant | tert-butyl(4-butoxy-6-formyl-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 4 mmol, 1.78 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=O)=O)CC(C)(C)C)=O | C25H36N2O5
reactant | methanol | 30 ml | CO | CH4O
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | water | O | H2O
product | tert-butyl[4-butoxy-6-(cyanomethyl)-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.66 g, 36.3% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)CC#N)=O)CC(C)(C)C)=O | C26H37N3O4
